US07115645B2
6-[[5-Methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester
6-[[5-Hydroxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester was methylated with methyl iodide according to general operating instructions 8.

reactant | 6-[[5-Hydroxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester | C(C)(C)OC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=C(C=C2)C)C1)O)=O | C29H32N2O4
reactant | methyl iodide | CI | CH3I
product | 6-[[5-Methoxy-1-(4-methylphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester | C(C)(C)OC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=C(C=C2)C)C1)OC)=O | C30H34N2O4
